US07714168B2
To 17 ml of toluene were added 1.8 g of 3,5-difluoro-4-(2-propynyloxy)benzoic acid, 1 ml of thionyl chloride and 10 mg of DMF, and the mixture was heated under reflux for 4 hours. Then, the reaction mixture was concentrated under reduced pressure to obtain 1.9 g of 3,5-difluoro-4-(2-propynyloxy)benzoyl chloride represented by the formula:

reactant | toluene | 17 ml | C1(=CC=CC=C1)C | C7H8
reactant | 3,5-difluoro-4-(2-propynyloxy)benzoic acid | 1.8 g | FC=1C=C(C(=O)O)C=C(C1OCC#C)F | C10H6F2O3
reactant | thionyl chloride | 1 ml | S(=O)(Cl)Cl | Cl2OS
solvent | DMF | 10 mg | CN(C)C=O | C3H7NO
product | 3,5-difluoro-4-(2-propynyloxy)benzoyl chloride | 1.9 g | FC=1C=C(C(=O)Cl)C=C(C1OCC#C)F | C10H5ClF2O2
